US04921855
A solution of 2(S)-(N-t-butoxycarbonyl-L-histidyl)amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane (383 mg) in trifluoroacetic acid (10 ml) was stirred at 0° C. for 30 minutes. After concentration of the mixture in vacuo, the residue was dissolved in ethyl acetate (20 ml). The solution was washed with saturated sodium bicarbonate solution, dried over magnesium sulfate, and concentrated in vacuo to give 2(S)-(L-histidyl)amino-1-cyclohexyl-(S)-hydroxy-6-methylheptane (275 mg) as an amorphous powder.

reactant | 2(S)-(N-t-butoxycarbonyl-L-histidyl)amino-1-cyclohexyl-3(S)-hydroxy-6-methylheptane | 383 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC1CCCCC1)[C@H](CCC(C)C)O | C25H44N4O4
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2(S)-(L-histidyl)amino-1-cyclohexyl-(S)-hydroxy-6-methylheptane | 275 mg | N[C@@H](CC1=CNC=N1)C(=O)N[C@H]([C@H](C1CCCCC1)O)CCCC(C)C | C20H36N4O2
